US09422292B2
A solution of bromo-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (30 mg, 0.11 mmol), phenylboronic acid (26 mg, 0.22 mmol), Tetrakis(triphenylphosphine)palladium(0) (10 mg) and Cs2CO3 (72 mg, 0.22 mmol) in dioxane (5 mL) and water (1 mL) was heated at 120° C. under microwave for 20 min. The reaction mixture was concentrated to give the crude product, which was purified by prep-TLC (DCM:MeOH=10:1) to afford 1-methyl-8-phenyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (16 mg, yield 55%).

reactant | bromo-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.11 mmol, 30 mg | BrC1C=2N(C3=C(NC1)C=CC=C3)C(=NN2)C | C11H11BrN4
reactant | phenylboronic acid | 0.22 mmol, 26 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Cs2CO3 | 0.22 mmol, 72 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-methyl-8-phenyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 16 mg, yield 55% | CC1=NN=C2N1C1=C(NCC2)C=C(C=C1)C1=CC=CC=C1 | C17H16N4
